US09079853B2
1-butyl-5-chloro-2-oxoindolin-3-yl benzoate
Was made in an analogous fashion to 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate using 1-butyl-5-chloroindoline-2,3-dione. 1H NMR δ 8.11 (t, 2H), 7.60 (t, 1H), 7.44 (m, 3H), 7.33 (d, 1H), 6.82 (d, 1H), 6.10 (s, 1H), 3.73 (m, 2H), 1.72 (m, 2H), 1.44 (m, 2H), 0.99 (t, 3H).

reactant | 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC)=O | C18H17NO3
reactant | 1-butyl-5-chloroindoline-2,3-dione | C(CCC)N1C(C(C2=CC(=CC=C12)Cl)=O)=O | C12H12ClNO2
product | 1-butyl-5-chloro-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)Cl)CCCC)=O | C19H18ClNO3
